US05206375
10.7 parts of N,N-dimethyl-N'-(4-chloro-3-cyano-thien-2-yl)-formamidine are dissolved in 100 parts of glacial acetic acid, after which 8 parts of bromine are added dropwise to the solution, and the mixture is then heated at the boil for 3 hours. After the mixture has cooled to room temperature, the resulting precipitate is filtered off under suction, washed with glacial acetic acid, then with aqueous sodium bisulfite solution and then with water and is dried. 13.4 parts (72% of theory) of N,N-dimethyl-N'-(5-bromo-4-chloro-3-cyanothien-2-yl)-formamidine hydrobromide are obtained.

reactant | N,N-dimethyl-N'-(4-chloro-3-cyano-thien-2-yl)-formamidine | CN(C=NC=1SC=C(C1C#N)Cl)C | C8H8ClN3S
reactant | bromine | BrBr | Br2
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | N,N-dimethyl-N'-(5-bromo-4-chloro-3-cyanothien-2-yl)-formamidine hydrobromide | 72% | Br.CN(C=NC=1SC(=C(C1C#N)Cl)Br)C | InChI=1S/C8H7BrClN3S.BrH/c1-13(2)4-12-8-5(3-11)6(10)7(9)14-8;/h4H,1-2H3;1H
